US04307016
In 0.7 ml of pyridine was dissolved 100 mg of maytansinol. To the solution, cooled with ice, was added 0.35 ml of acetic anhydride. The mixture was left standing for 18 hours at room temperature (23°-25° C.). The reaction solution was poured into 5 ml of cold water and stirred. The precipitate separated out was collected by filtration and dried to obtain 85 mg of powdery substance. This powdery substance was dissolved in 1 ml of chloroform/methanol 10:1 (V/V). To the solution was added 0.2 g of silica gel, and mixed sufficiently. The mixture was then applied to the top of a silica gel column (80 ml). Elution was carried out with ethyl acetate saturated with water. The eluate was collected in 10 ml fractions. The fractions of No. 37-44 were collected, concentrated under reduced pressure. To the residue was added a small volume of ethyl acetate (about 0.5 ml) to dissolve the precipitating crystals again, then was left standing at room temperature. Precipitating crystals were collected by filtration, whereupon 36.0 mg. of maytanacine was obtained. The melting point of this was 231° C. and, when compared with maytanacine obtained in Reference Example 22 in mass spectrum, IR spectrum, UV-spectrum and thin layer chromatogram, this product was found to be identical with the maytanacine obtained in the above.

reactant | maytansinol | 100 mg | CC1C2CC(C(/C=C/C=C(/CC3=CC(=C(C(=C3)OC)Cl)N(C(=O)CC(C4(C1O4)C)O)C)\C)OC)(NC(=O)O2)O | C28H37ClN2O8
reactant | acetic anhydride | 0.35 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 5 ml | O | H2O
solvent | pyridine | 0.7 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform methanol | 1 ml | C(Cl)(Cl)Cl.CO
product | maytanacine | C[C@@H]1[C@@H]2C[C@]([C@@H](/C=C/C=C(/CC3=CC(=C(C(=C3)OC)Cl)N(C(=O)C[C@@H]([C@]4([C@H]1O4)C)OC(=O)C)C)\C)OC)(NC(=O)O2)O | C30H39ClN2O9
